US07915268B2
(2R)-tert-Butyl 2-(2-(6-chloro-1H-benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-ylamino)propanoate.
Diisopropylethylamine (2.6 mL) was added to a mixture of 6-chloro-1-(5-nitro-4-thiocyanatopyrimidin-2-yl)-1H-benzo[d]imidazole (1.66 g, 5 mmol) and D-alanine t-butyl ester hydrochloride (1.1 g, Chem-Impex Int.) in THF (50 mL). The combined mixture was stirred at RT overnight, partitioned between ethyl acetate and water then separated. The aqueous layer was extracted once again with ethyl acetate and the combined organics were concentrated and purified by column chromatography. Elution with DCM and 0.5% MeOH in DCM provided the above compound (0.58 g), MH+=419, 421.

reactant | Diisopropylethylamine | 2.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-1-(5-nitro-4-thiocyanatopyrimidin-2-yl)-1H-benzo[d]imidazole | 5 mmol, 1.66 g | ClC=1C=CC2=C(N(C=N2)C2=NC=C(C(=N2)SC#N)[N+](=O)[O-])C1 | C12H5ClN6O2S
reactant | D-alanine t-butyl ester hydrochloride | 1.1 g | Cl.C(C)(C)(C)OC([C@H](N)C)=O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2R)-tert-Butyl 2-(2-(6-chloro-1H-benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-ylamino)propanoate | 0.58 g | ClC=1C=CC2=C(N(C=N2)C2=NC=C(C(=N2)N[C@@H](C(=O)OC(C)(C)C)C)[N+](=O)[O-])C1 | C18H19ClN6O4
